US05330991
To 70 ml of a suspension containing 1.28 g of lithium aluminum hydride in THF, 30 ml of a solution containing 4.93 g of 3-(4-tert-butylphenyl)-2,7-dimethyl-1,2,3,4-tetrahydroisoquinoline-1-one in THF was added and the resulting mixture was heated to reflux for 14 hours.After the reaction, 1.28 g of water, 1.28 g of 15% aqueous sodium hydroxidesolution and 3.84 g of water were sequentially added in the order mentionedwhile cooling the mixture in ice and the generated precipitates were removed by filtration. The filtrate was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residuewas purified by column chromatography on silica gel (hexane/ethyl acetate=9/1 v/v) to obtain 4.22 g of 3- (4-tert-butylphenyl ) -2,7-dimethyl-1.2,3,4-tetrahydroisoquinoline.

reactant | lithium aluminum hydride | 1.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-tert-butylphenyl)-2,7-dimethyl-1,2,3,4-tetrahydroisoquinoline-1-one | 4.93 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(C(C2=CC(=CC=C2C1)C)=O)C | C21H25NO
reactant | water | 1.28 g | O | H2O
reactant | sodium | 1.28 g | [Na] | Na
reactant | water | 3.84 g | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3- (4-tert-butylphenyl ) -2,7-dimethyl-1.2,3,4-tetrahydroisoquinoline | 4.22 g | C(C)(C)(C)C1=CC=C(C=C1)C1N(CC2=CC(=CC=C2C1)C)C | C21H27N
